US04147790
Using the procedure of Example 2, 3-(4-chlorobenzoyl)-benzeneacetic acid chloride was reacted with 4-(4chlorophenyl)-1-piperazinyl-ethanol to obtain 2-[4-(4-chlorophenyl)-1-piperazinyl]-ethyl 3-(4-chlorobenzoyl)-benzeneacetate with an Rf=0.68 (9-1-0.05 benzene-ethyl acetate-triethylamine eluant). Treatment with hydrochloric acid resulted in the formation of the hydrochloride salt melting at 142° C.

reactant | 3-(4-chlorobenzoyl)-benzeneacetic acid chloride | ClC1=CC=C(C(=O)C=2C=C(C=CC2)CC(=O)Cl)C=C1 | C15H10Cl2O2
reactant | 4-(4chlorophenyl)-1-piperazinyl-ethanol | ClC1=CC=C(C=C1)N1CCN(CC1)C(C)O | C12H17ClN2O
reactant | benzene ethyl acetate triethylamine | C1=CC=CC=C1.C(C)(=O)OCC.C(C)N(CC)CC
product | 2-[4-(4-chlorophenyl)-1-piperazinyl]-ethyl 3-(4-chlorobenzoyl)-benzeneacetate | ClC1=CC=C(C(=O)C=2C=C(C=CC2)CC(=O)OCCN2CCN(CC2)C2=CC=C(C=C2)Cl)C=C1 | C27H26Cl2N2O3
